US04667032
4-Bromo-7-methoxy-2-(4-methylpiperazin-1-yl)-3H-phenothiazin-3-one
To a suspension of 7-methoxy-2-(4-methylpiperazin-1-yl)-3H-phenothiazin-3-one (500 mg) in acetic acid (10 ml) was added a solution of bromine in acetic acid (0.5M) (6 ml) and stirred for 5 minutes. Hexane (100 ml) was added and the resulting precipitate was filtered. The solid was suspended in a mixture of aqueous K2CO3 (50 ml), EtOAc (100 ml) and methanol (20 ml) and stirred for 15 minutes. After filtration and decantation, the organic layer was washed with brine, dried and evaporated to dryness to afford the title compound (190 mg) m.p. 209°-210° (dec.).

reactant | 7-methoxy-2-(4-methylpiperazin-1-yl)-3H-phenothiazin-3-one | 500 mg | COC=1C=C2SC3=CC(C(=CC3=NC2=CC1)N1CCN(CC1)C)=O | C18H19N3O2S
reactant | bromine | BrBr | Br2
reactant | Hexane | 100 ml | CCCCCC | C6H14
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 0.5M, 6 ml | C(C)(=O)O | C2H4O2
product | 4-Bromo-7-methoxy-2-(4-methylpiperazin-1-yl)-3H-phenothiazin-3-one | 190 mg | BrC=1C(C(=CC2=NC3=CC=C(C=C3SC12)OC)N1CCN(CC1)C)=O | C18H18BrN3O2S
